US05013841
Twenty milliliters of a mixture of conc. sulfuric acid, glacial acetic acid and water (1:8:6) was added to 4.4 g of ethyl 5-(N-acetylbenzylamino)-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, and the mixture was heated under reflux for 6 hours. After cooling, water was added to the reaction mixture, and the crystals were collected by filtration and successively washed with water and ethanol. The crystals were recrystallized from chloroform/ethanol to give 3.0 g of 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 214°-216° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl 5-(N-acetylbenzylamino)-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 4.4 g | C(C)(=O)N(C1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)OCC)=O)CC1=CC=CC=C1 | C24H22F2N2O4
solvent | water | O | H2O
product | 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 3.0 g | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C20H16F2N2O3
